US05574055
290.4 mg (1.0 mmol) of (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine were dissolved in 5 ml of abs. dimethylformamide and treated with 171.0 mg(1.0 mmol) of benzyl bromide in the presence of 404.8 mg (4.0 mmol) of triethylamine. The reaction mixture was stirred at 600 for 90 minutes. Thereafter, it was evaporated, the residue was partitioned in ethyl acetate and 3N ammonia solution and the organic phase was washed with water, dried over sodium sulfate, filtered and evaporated. The base was dissolved in ethanol, made acid with ethereal hydrochloric acid and distilled repeatedly with toluene. After recrystallization from ethanol/ether there were obtained 291.2 mg of (RS)-1-benzyl-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine.HCl. M.p.: 175°-177°.

reactant | (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine | 1.0 mmol, 290.4 mg | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCNCC1 | C16H22N2O3
reactant | benzyl bromide | 1.0 mmol, 171.0 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 4.0 mmol, 404.8 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (RS)-1-benzyl-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine | 291.2 mg | C(C1=CC=CC=C1)N1CCC(CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C23H28N2O3
